US06855710B2
(Z)-3-[1-(4-methoxymethylcarbonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Examples 1 and 39 from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 4-methoxymethylcarbonylamino-aniline in DMF and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 4-methoxymethylcarbonylamino-aniline | COCC(=O)NC1=CC=C(N)C=C1 | C9H12N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(4-methoxymethylcarbonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | COCC(=O)NC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C24H21N3O3
